US05123951
4-Bromo-2-methylaniline (2.83 grams, 0.01 mole), methyl chlorocarbonyl(dimethoxy)acetate (2.99 grams, 0.01 mole), prepared in Part A, and triethylamine (1.54 grams, 0.015 mole) were reacted in a manner similar to the procedure described in Example I to give 1.73 grams (0.005 mole) of methyl 3-[(4-bromo-2-methylphenyl)amino]-2,2-dimethoxy-3-oxopropanoate having a melting point of 99° C.-103° C.

reactant | 4-Bromo-2-methylaniline | 0.01 mole, 2.83 grams | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | methyl chlorocarbonyl(dimethoxy)acetate | 0.01 mole, 2.99 grams | ClC(=O)C(C(=O)OC)(OC)OC | C6H9ClO5
reactant | triethylamine | 0.015 mole, 1.54 grams | C(C)N(CC)CC | C6H15N
product | methyl 3-[(4-bromo-2-methylphenyl)amino]-2,2-dimethoxy-3-oxopropanoate | 0.005 mole, 1.73 grams | BrC1=CC(=C(C=C1)NC(C(C(=O)OC)(OC)OC)=O)C | C13H16BrNO5
